US04686230
8. 5-(1,1,2,2-Tetrafluoroethoxy)-2-{[1-(4-methoxy-2-pyridyl)ethyl]sulphinyl}-1H-benzimidazole
9.8 g of 80% m-chloroperoxybenzoic acid in 200 ml of dichloromethane are added dropwise at -65° C. to a solution of 19.5 g of ±-5-(1,1,2,2-tetrafluoroethoxy)-2-{[1-(4-methoxy-2-pyridyl)ethyl]thio}-1H-benzimidazole in 1.5 l of dichloromethane. The reaction mixture is stirred for a further 2 h at -40° C. and then stirred into a sodium carbonate solution. The organic phase is separated off, and the aqueous phase is extracted once more with dichloromethane. The combined organic phases are dried over sodium sulphate and concentrated. A sparingly soluble diastereomer thus crystallises. The other diastereomer remains in the mother liquor and can either be purified by chromatography or can, by leaving it to stand, preferably in the presence of bases, be rearranged into the less soluble diastereomer. Recrystallisation of sparingly soluble product from ethyl acetate/diisopropyl ether gives 10 g (51%) of the title compound of m.p. 156°-157° C.

reactant | m-chloroperoxybenzoic acid | 9.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-(1,1,2,2-tetrafluoroethoxy)-2-{[1-(4-methoxy-2-pyridyl)ethyl]thio}-1H-benzimidazole | FC(C(F)F)(OC1=CC2=C(NC(=N2)SC(C)C2=NC=CC(=C2)OC)C=C1)F | C17H15F4N3O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 l | ClCCl | CH2Cl2
product | 5-(1,1,2,2-Tetrafluoroethoxy)-2-{[1-(4-methoxy-2-pyridyl)ethyl]sulphinyl}-1H-benzimidazole | 10 g, 51% | FC(C(F)F)(OC1=CC2=C(NC(=N2)S(=O)C(C)C2=NC=CC(=C2)OC)C=C1)F | C17H15F4N3O3S
